US05051508
1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (1.5 g. 4.9 mmol) and dimethylamine (33% in ethanol. 150 ml) were heated to 180° C. in a pressure vessel for 18 hours, then evaporated, taken up in dichloromethane, washed with sodium bicarbonate, dried and evaporated. Crystallisation from aqueous ethanol gave 1-(2-methylphenyl)-4-dimethylamino- 6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (0.97 g, 63%), m.p. 120°-121°.

reactant | 1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 4.9 mmol, 1.5 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H17ClN2
reactant | dimethylamine | 150 ml | CNC | C2H7N
product | 1-(2-methylphenyl)-4-dimethylamino- 6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 0.97 g, 63% | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)N(C)C | C21H23N3
